US04167570
6,11-Dihydro-2,6-dimethyl-11-(3-pyrrolidino-propyl)-5H-pyrido[2,3-b][1,5]benzodiazepin5-one by method A
A mixture consisting of 7.2 gm of 6,11-dihydro-2,6-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, 1.9 gm of 50% sodium hydride in mineral oil and 100 ml of dimethyl formamide was stirred at 60°-70° C. for 45 minutes. Thereafter, the mixture was cooled to room temperature, 7.4 gm of 3-pyrrolidino-propyl chloride were added dropwise and the mixture was refluxed for 3 hours. The solvent was then distilled off in vacuo, and the residue was recrystallized twice from acetonitrile, yielding 46% of theory of the compound named in the heading, which had a melting point of 134°-136° C.

reactant | 6,11-dihydro-2,6-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 7.2 gm | CC=1C=CC2=C(NC3=C(N(C2=O)C)C=CC=C3)N1 | C14H13N3O
reactant | sodium hydride | 1.9 gm | [H-].[Na+]
reactant | 3-pyrrolidino-propyl chloride | 7.4 gm | N1(CCCC1)CCCCl | C7H14ClN
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | 6,11-Dihydro-2,6-dimethyl-11-(3-pyrrolidino-propyl)-5H-pyrido[2,3-b][1,5]benzodiazepin5-one | CC=1C=CC2=C(N(C3=C(N(C2=O)C)C=CC=C3)CCCN3CCCC3)N1 | C21H26N4O
